US07514566B2
5-(2-((2S,3S)-2-amino-4-hydroxy-3-(4-(trifluoromethyl)phenyl)pentylamino)thiazol-5-yl)indolin-2-one
The title compound was synthesized in a manner similar to Example 158 starting with tert-butyl (2S,3S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate as shown in Scheme 36. After an oxidation with Dess-Martin periodinane, tert-butyl (2S,3S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate was converted to tert-butyl (2S,3S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-oxo-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate. The aldehyde tert-butyl (2S,3S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-oxo-3-(4-(trifluoromethyl)-phenyl)butan-2-ylcarbamate reacted with methylmagnesium bromide to generate tert-butyl (2S,3S,4S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)pentan-2-ylcarbamate as the intermediate for the Suzuki reaction with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one leading to the final product. MS m/z: 477 (M+1). 1H NMR (400 MHz, CD3OD) δ ppm 7.68 (d, J=8.22 Hz, 2H) 7.54 (d, J=8.22 Hz, 2H) 7.34 (d, J=1.56 Hz, 1H) 7.26 (dd, J=8.12, 1.86 Hz, 1H) 6.87 (d, J=8.22 Hz, 1H) 4.39 (dd, J=9.00, 6.06 Hz, 1H) 3.77-3.82 (m, 1H) 3.41 (dd, J=13.69, 5.28 Hz, 1H) 3.37 (s, 3H) 3.20 (dd, J=13.50, 8.02 Hz, 1H) 2.92 (dd, J=9.00, 3.52 Hz, 1H) 1.08 (d, J=6.26 Hz, 3H).

reactant | tert-butyl (2S,3S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | BrC1=CN=C(S1)N(C[C@H]([C@@H](CO)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C24H31BrF3N3O5S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl (2S,3S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-oxo-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | BrC1=CN=C(S1)N(C[C@H]([C@@H](C=O)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C24H29BrF3N3O5S
reactant | methylmagnesium bromide | C[Mg]Br
reactant | tert-butyl (2S,3S,4S)-1-(5-bromothiazol-2-yl-(Boc)-amino)-4-hydroxy-3-(4-(trifluoromethyl)phenyl)pentan-2-ylcarbamate | BrC1=CN=C(S1)N(C[C@H]([C@@H]([C@H](C)O)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C25H33BrF3N3O5S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | CC1(OB(OC1(C)C)C=1C=C2CC(NC2=CC1)=O)C | C14H18BNO3
product | 5-(2-((2S,3S)-2-amino-4-hydroxy-3-(4-(trifluoromethyl)phenyl)pentylamino)thiazol-5-yl)indolin-2-one | N[C@H](CNC=1SC(=CN1)C=1C=C2CC(NC2=CC1)=O)[C@@H](C(C)O)C1=CC=C(C=C1)C(F)(F)F | C23H23F3N4O2S
